US06809199B2
STEP G: Methyl 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2-dihydroquinoline-7-carboxylate
Methyl 5-bromo-1-(2,6-dichlorophenyl)-2-oxo-1,2-dihydroquinoline-7-carboxylate (80 mg), 2-chlorophenylboronic acid (58 mg), palladium tetrakis(triphenylphosphine) (22 mg) and 1M aqueous sodium carbonate (450 μL) were mixed in ethylene glycol dimethyl ether (2 mL), degassed with argon and then heated to reflux for 90 min. The cooled reaction mixture was diluted with ether, filtered through celite and concentrated. The residue was purified by silica gel chromatography eluting with 70% hexane:30% ethyl acetate to give the title compound. 1H NMR (500 MHz, CDCl3): δ 7.82 (d, J=1.4 Hz, 1H); 7.65-7.39 (m, 8H); 7.23 (s, 1H); 6.82 (d, J=9.9 Hz, 1H), 3.90 (s, 3H). Mass spectrum: m/z 458 (M+H).

reactant | Methyl 5-bromo-1-(2,6-dichlorophenyl)-2-oxo-1,2-dihydroquinoline-7-carboxylate | 80 mg | BrC1=C2C=CC(N(C2=CC(=C1)C(=O)OC)C1=C(C=CC=C1Cl)Cl)=O | C17H10BrCl2NO3
reactant | 2-chlorophenylboronic acid | 58 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 1M, 450 μL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 2 mL | COCCOC | C4H10O2
solvent | ether | CCOCC | C4H10O
catalyst | palladium tetrakis(triphenylphosphine) | 22 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | Methyl 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2-dihydroquinoline-7-carboxylate | ClC1=C(C=CC=C1)C1=C2C=CC(N(C2=CC(=C1)C(=O)OC)C1=C(C=CC=C1Cl)Cl)=O | C23H14Cl3NO3
